US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-(propylamino)quinoxaline-6-carboxylate (70 mg, 0.21 mmol) in tetrahydrofuran (30 mL) was added sodium hydride (32 mg, 1.32 mmol) and CH3CH2I (1.5 mL), and the reaction was stirred overnight at room temperature. The reaction was then quenched with water (50 mL), adjusted to pH 5 with HCl (3N), and extracted with ethyl acetate (3×40 mL). The organic layers were combined, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the residue, which was purified by Prep-HPLC under the following conditions [(Agilent 1200 prep HPLC): Column, SunFire Prep C18, 19*50 mm 5 um; mobile phase, water with 0.03% NH3H2O and CH3CN (10% CH3CN up to 35% in 8 min); Detector, UV 220 nm] to afford 3-(ethyl(propyl)amino)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid as a light yellow solid (45.0 mg, 62.0%).

reactant | methyl 2-(4-fluorophenyl)-3-(propylamino)quinoxaline-6-carboxylate | 0.21 mmol, 70 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1NCCC)C(=O)OC | C19H18FN3O2
reactant | sodium hydride | 1.32 mmol, 32 mg | [H-].[Na+]
reactant | CH3CH2I | 1.5 mL | CCI | C2H5I
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-(ethyl(propyl)amino)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid | 45.0 mg, 62.0% | C(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)F)CCC | C20H20FN3O2
